US07638541B2
Step 2: 4-(4-Hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
A solution of 4-(4-ethoxycarbonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.15 g, 3.37 mmol) in THF (15 mL) at 0° C. was treated with LiAlH4 (128 mg, 1 eq.). The mixture was stirred for 1 hour, then the reaction was quenched with 2 N NaOH solution. The solid was filtered off through a pad of celite and washed with EtOAc (100 mL). The filtrate was washed with water and dried over Na2SO4. Removal of the solvent afforded the desired product as an oil.

reactant | 4-(4-ethoxycarbonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 3.37 mmol, 1.15 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)C(=O)OCC | C15H23N3O4S
reactant | LiAlH4 | 128 mg, 1 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(4-Hydroxymethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC=C(N1)CO | C13H21N3O3S
